US08293768B2
Synthesis of 2-(1-(cyclopropylmethyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
Following the procedure as described in Example 21, making variations as required to replace 4-methyl-2-(5-oxo-1-(4-(trifluoromethyl)benzyl)-1H-1,2,4-triazol-4(5H)-yl)thiazole-5-carboxylic acid with 2-(1-(cyclopropylmethyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylic acid to react with pyridin-3-ylmethanamine, the title compound was obtained as a white solid in 49% yield: mp 116-117° C. (ethyl acetate/hexane); 1H NMR (300 MHz, CDCl3) δ 8.57 (br s, 1H), 8.47 (br s, 1H), 8.24 (s, 1H), 7.79-7.71 (m, 1H), 7.44-7.27 (m, 1H), 6.38 (t, J=5.8 Hz, 1H), 4.62 (d, J=5.8 Hz, 2H), 3.70 (d, J=7.2 Hz, 2H), 2.65 (s, 3H), 1.34-1.14 (m, 1H), 0.63-0.52 (m, 2H), 0.46-0.31 (m, 2H); 13C NMR (75 MHz, CDCl3) δ 161.8, 153.4, 151.2, 149.9, 149.2, 148.9, 135.8, 130.5, 123.8, 121.4, 117.9, 50.6, 41.6, 17.2, 10.2, 3.7; MS (ES+) m/z 371.3 (M+1).

reactant | 4-methyl-2-(5-oxo-1-(4-(trifluoromethyl)benzyl)-1H-1,2,4-triazol-4(5H)-yl)thiazole-5-carboxylic acid | CC=1N=C(SC1C(=O)O)N1C=NN(C1=O)CC1=CC=C(C=C1)C(F)(F)F | C15H11F3N4O3S
reactant | 2-(1-(cyclopropylmethyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylic acid | C1(CC1)CN1N=CN(C1=O)C=1SC(=C(N1)C)C(=O)O | C11H12N4O3S
reactant | pyridin-3-ylmethanamine | N1=CC(=CC=C1)CN | C6H8N2
product | 2-(1-(cyclopropylmethyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 49% yield | C1(CC1)CN1N=CN(C1=O)C=1SC(=C(N1)C)C(=O)NCC=1C=NC=CC1 | C17H18N6O2S
